US06777421B2
1-phenyl-8-[[4-[(1,2,3,4-tetrahydro-1-naphthalenyl)oxy]phenyl]methyl]-1,3,8-triazaspiro[4.5]decan-4-one (Compound #202)
To a mixture of 4-(1,2,3,4-tetrahydro-1-naphthyloxy)benzaldehyde (264 mg, 1.05 mmol) and 1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one (232 mg, 1.00 mmol) in 1,2-dichloroethane (15 mL) was added sodium triacetoxyborohydride (369 mg, 1.74 mmol). The resultant reaction mixture was stirred at room temperature under argon atmosphere for 20 h. The reaction mixture was quenched with 1 N aqueous NaHCO3 and extracted with CHCl3 (2×50 mL). The organic phase was dried over Na2SO4, filtered and concentrated. The crude product was purified by flash chromatography on silica gel (4% MeOH in CHCl3) to yield the title product as an off-white solid.

reactant | 4-(1,2,3,4-tetrahydro-1-naphthyloxy)benzaldehyde | 1.05 mmol, 264 mg | C1(CCCC2=CC=CC=C12)OC1=CC=C(C=O)C=C1 | C17H16O2
reactant | 1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one | 1.00 mmol, 232 mg | C1(=CC=CC=C1)N1CNC(C12CCNCC2)=O | C13H17N3O
reactant | sodium triacetoxyborohydride | 1.74 mmol, 369 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 15 mL | ClCCCl | C2H4Cl2
product | 1-phenyl-8-[[4-[(1,2,3,4-tetrahydro-1-naphthalenyl)oxy]phenyl]methyl]-1,3,8-triazaspiro[4.5]decan-4-one | C1(=CC=CC=C1)N1CNC(C12CCN(CC2)CC2=CC=C(C=C2)OC2CCCC1=CC=CC=C21)=O | C30H33N3O2
